US09278973B2
Step 4. 5-(1H-Benzo[d][1,2,3]triazol-6-yl)-2-(2-chlorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one
A mixture of 3-(2-chlorophenyl)-1H-1,2,4-triazol-5-amine (50 mg, 0.26 mmol, 1.00 equiv), ethyl 3-(1H-1,2,3-benzotriazol-5-yl)-3-oxopropanoate (100 mg, 0.43 mmol, 1.67 equiv), butan-1-ol (1 mL), and p-TsOH (5 mg, 0.03 mmol, 0.11 equiv) was stirred for 1 h at 170° C. in an oil bath. After the reaction was completed, the solids were collected by filtration and washed with MeOH (3×1 ml). This resulted in 25.3 mg (27%) of 5-(1H-benzo[d][1,2,3]triazol-6-yl)-2-(2-chlorophenyl)-[1,2,4]triazolo[1,5-c]pyrimidin-7(4H)-one as a grey solid.

reactant | 3-(2-chlorophenyl)-1H-1,2,4-triazol-5-amine | 0.26 mmol, 50 mg, 1.00 equiv | ClC1=C(C=CC=C1)C1=NNC(=N1)N | C8H7ClN4
reactant | ethyl 3-(1H-1,2,3-benzotriazol-5-yl)-3-oxopropanoate | 0.43 mmol, 100 mg, 1.67 equiv | N1N=NC2=C1C=CC(=C2)C(CC(=O)OCC)=O | C11H11N3O3
reactant | p-TsOH | 0.03 mmol, 5 mg, 0.11 equiv | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | butan-1-ol | 1 mL | C(CCC)O | C4H10O
product | 5-(1H-Benzo[d][1,2,3]triazol-6-yl)-2-(2-chlorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | N1N=NC2=C1C=C(C=C2)C=2NC=1N(C(C2)=O)N=C(N1)C1=C(C=CC=C1)Cl | C17H10ClN7O
